US06936612B2
4-[6-(6-tert-Butoxycarbonylamino-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.31 g, 0.511 mmol) prepared as in Example 10, was added to 1:1 chloroform/methanol (20 ml) and the mixture was purged with anhydrous hydrogen chloride gas then stirred at room temperature for 18 hours. The resulting solid was collected by filtration, washed with diethyl ether, and dried in vacuo to provide 6-amino-8-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride as a yellow solid (0.202 g, 100%). MS (APCI); M++1: Calc'd, 407.48. Found, 407.4. Analyses for C21H26N8O.1.25 H2O.2HCl: Calc'd: C, 50.46; H, 6.02; N, 22.14; Cl (ionic), 15.98; H2O, 4.58. Found: C, 50.25; H, 6.13; N, 22.32; Cl (ionic), 14.13; H2O, 4.49.

reactant | 4-[6-(6-tert-Butoxycarbonylamino-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.511 mmol, 0.31 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)NC(=O)OC(C)(C)C)=O)C2CCCC2 | C31H42N8O5
reactant | chloroform methanol | 20 ml | C(Cl)(Cl)Cl.CO
product | 6-amino-8-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.202 g, 100% | Cl.NC1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N(C1=O)C1CCCC1 | InChI=1S/C21H26N8O.ClH/c22-17-11-14-12-25-21(27-19(14)29(20(17)30)15-3-1-2-4-15)26-18-6-5-16(13-24-18)28-9-7-23-8-10-28;/h5-6,11-13,15,23H,1-4,7-10,22H2,(H,24,25,26,27);1H
